US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), 3-(aminomethyl)pyridine (0.064 mL, 0.636 mmol), Pd2(dba)3 (53 mg, 0.058 mmol), rac-BINAP (115 mg, 0.185 mmol) and NaOtBu (169 mg, 1.759 mmol) in DMA (5 mL) was heated at 85° C. for 2 h. The mixture was allowed to cool, then filtered. Preparatory HPLC afforded 4-chloro-6-[(pyridin-3-ylmethyl)-amino]-2H-phthalazin-1-one hydroformate (31 mg) as a yellow solid, 1H (400 MHz, d6-DMSO) δ: 4.41 (d, 2H), 6.78 (d, 1H), 7.12 (dd, 1H), 7.31 (dd, 1H), 7.60 (t, 1H), 7.10 (m, 1H), 7.88 (d, 1H), 8.09 (s, 1H), 8.41 (dd, 1H), 8.56 (d, 1H), 12.31 (s, 1H) ppm; m/z (M+1) 286.99.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 3-(aminomethyl)pyridine | 0.636 mmol, 0.064 mL | NCC=1C=NC=CC1 | C6H8N2
reactant | rac-BINAP | 0.185 mmol, 115 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.759 mmol, 169 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd2(dba)3 | 0.058 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-[(pyridin-3-ylmethyl)-amino]-2H-phthalazin-1-one | 31 mg | ClC1=NNC(C2=CC=C(C=C12)NCC=1C=NC=CC1)=O | C14H11ClN4O
